### PR TITLE
[Merged by Bors] - feat(CategoryTheory): a property of objects is a strong generator if any object is a colimit of objects satisfying the property

### PR DESCRIPTION
**Pull request by joelriou**
---

- [x] depends on: #29519
- [x] depends on: #30269
- [x] depends on: #30294
- [x] depends on: #29518

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Generator/Basic.lean [hunk 1]
```diff
@@ -308,6 +310,20 @@ lemma IsCoseparating.mk_of_exists_mono
   exact Fan.IsLimit.hom_ext hc _ _
     (fun i ↦ by simpa using h _ (hs i) (j ≫ c.proj i))
 
+lemma IsSeparating.mk_of_exists_colimitsOfShape
+    (hP : ∀ (X : C), ∃ (J : Type w) (_ : Category.{w'} J), Nonempty (P.ColimitOfShape J X)) :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Generator/Basic.lean]: It seems more natural to use the dedicated object property over `Nonempty …` (this is defeq to what you wrote).

```suggestion
    (hP : ∀ (X : C), ∃ (J : Type w) (_ : Category.{w'} J), P.colimitsOfShape J X) :
```

File: Mathlib/CategoryTheory/Generator/Basic.lean [hunk 2]
```diff
@@ -308,6 +310,20 @@ lemma IsCoseparating.mk_of_exists_mono
...
+    P.IsSeparating := by
+  intro X Y f g h
+  obtain ⟨J, _, ⟨p⟩⟩ := hP X
+  exact p.isColimit.hom_ext (fun j ↦ h _ (p.prop_diag_obj _) _)
+
+lemma IsCoseparating.mk_of_exists_limitsOfShape
+    (hP : ∀ (X : C), ∃ (J : Type w) (_ : Category.{w'} J), Nonempty (P.LimitOfShape J X)) :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Generator/Basic.lean]:
```suggestion
    (hP : ∀ (X : C), ∃ (J : Type w) (_ : Category.{w'} J), P.limitsOfShape J X) :
```

File: Mathlib/CategoryTheory/Generator/StrongGenerator.lean [hunk 3]
```diff
@@ -130,6 +134,25 @@ lemma isStrongGenerator_iff_exists_extremalEpi
     (coproductIsCoproduct (P.coproductFromFamily X)).whiskerEquivalence
     (Discrete.equivalence (equivShrink.{w} _)).symm, _, hP.extremalEpi_coproductFrom X⟩
 
+lemma IsStrongGenerator.mk_of_exists_colimitsOfShape
+    (hP : ∀ (X : C), ∃ (J : Type w) (_ : Category.{w'} J), Nonempty (P.ColimitOfShape J X)) :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Generator/StrongGenerator.lean]:
```suggestion
    (hP : ∀ (X : C), ∃ (J : Type w) (_ : Category.{w'} J), P.colimitsOfShape J X) :
```

File: Mathlib/CategoryTheory/Presentable/CardinalFilteredPresentation.lean [hunk 4]
```diff
@@ -115,6 +116,17 @@ lemma presentable [LocallySmall.{w} C] (X : C) : IsPresentable.{w} X := by
...
+-- TODO: Move `AreCardinalFilteredGenerators` to the `ObjectProperty` namespace
+include h in
+lemma isStrongGenerator :
+    ObjectProperty.IsStrongGenerator (Set.range G : ObjectProperty C) :=
+  .mk_of_exists_colimitsOfShape (fun X ↦ ⟨h.J X, inferInstance, by
+    change ObjectProperty.colimitsOfShape (Set.range G) (h.J X) X
+    rw [← ObjectProperty.colimitsOfShape_isoClosure]
+    refine ⟨h.colimitPresentation X, fun j ↦ ?_⟩
+    obtain ⟨i, ⟨e⟩⟩ := h.exists_colimitPresentation_diag_obj_iso X j
+    exact ⟨_, ⟨i, rfl⟩, ⟨e⟩⟩⟩)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Presentable/CardinalFilteredPresentation.lean]: You'll certainly know this better than me, but I think `ObjectProperty.ofObj` is the intended way of turning a family into an `ObjectProperty`, instead of coercing `Set.range` (implicitly abusing the defeq `ObjectProperty C = Set C`.). It also looks like the proof can go through without using `change`.

```suggestion
lemma isStrongGenerator :
    ObjectProperty.IsStrongGenerator (.ofObj G) :=
  .mk_of_exists_colimitsOfShape (fun X ↦ ⟨h.J X, inferInstance, by
    rw [← ObjectProperty.colimitsOfShape_isoClosure]
    refine ⟨h.colimitPresentation X, fun j ↦ ?_⟩
    obtain ⟨i, e⟩ := h.exists_colimitPresentation_diag_obj_iso X j
    exact ⟨_, .mk i, e⟩⟩)
```

File: Mathlib/CategoryTheory/Generator/StrongGenerator.lean [hunk 5]
```diff
@@ -130,6 +134,25 @@ lemma isStrongGenerator_iff_exists_extremalEpi
...
+    exact ⟨r, by simp [← cancel_mono i, fac], fac⟩
+  obtain ⟨J, _, ⟨p⟩⟩ := hP Y
+  choose φ hφ using fun j ↦ hi _ (p.prop_diag_obj j) (p.ι.app j)
+  dsimp at hφ
+  let c : Cocone p.diag := Cocone.mk _
+    { app := φ
+      naturality j₁ j₂ f := by simp [← cancel_mono i, hφ] }
+  refine ⟨p.isColimit.desc c, p.isColimit.hom_ext (fun j ↦ ?_)⟩
+  dsimp
+  rw [p.isColimit.fac_assoc, hφ, Category.comp_id]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Generator/StrongGenerator.lean:152]: This is purely cosmetic, feel free to ignore.

```suggestion
  rw [isStrongGenerator_iff]
  refine ⟨IsSeparating.mk_of_exists_colimitsOfShape hP, fun X Y i _ hi ↦ ?_⟩
  suffices IsSplitEpi i by
    obtain ⟨r, fac⟩ := this
    exact ⟨r, by simp [← cancel_mono i, fac]⟩
  obtain ⟨J, _, ⟨p⟩⟩ := hP Y
  choose φ hφ using fun j ↦ hi _ (p.prop_diag_obj j) (p.ι.app j)
  let c : Cocone p.diag := Cocone.mk _
    { app := φ
      naturality j₁ j₂ f := by simp [← cancel_mono i, hφ] }
  refine ⟨p.isColimit.desc c, p.isColimit.hom_ext (fun j ↦ ?_)⟩
  dsimp at hφ ⊢
  rw [p.isColimit.fac_assoc, hφ, Category.comp_id]
```

**Review by robin-carlier — COMMENTED** [review]
A few comments: these are mainly about "preferred spellings" of some hyps.

File: Mathlib/CategoryTheory/Presentable/CardinalFilteredPresentation.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Presentable/CardinalFilteredPresentation.lean]: Yes, this is now possible following the refactor #30269
